US09035101B2
Preparation of 2-chloro-6-iodo-4-(trifluoromethyl)benzenamine
Iodine monochloride (17.2 g, 108 mmol) in hydrochloric acid (36%, 21.4 g) and water (35 mL) was added dropwise to 2-chloro-4-(trifluoromethyl)benzenamine (20.0 g, 102 mmol) in hydrochloric acid (36%, 20.7 g) and water (140 mL). The mixture was warmed to 50° C. for a total of 8 h. Sodium hydroxide (50%, 33.5 g, 419 mmol) was added to the mixture at room temperature. The mixture was extracted with dichloromethane (2×250 mL), and the extracts were dried and evaporated to give the product as an oil (31.83 g, 97% yield).

reactant | Iodine monochloride | 108 mmol, 17.2 g | ICl | ClI
reactant | 2-chloro-4-(trifluoromethyl)benzenamine | 102 mmol, 20.0 g | ClC1=C(C=CC(=C1)C(F)(F)F)N | C7H5ClF3N
reactant | Sodium hydroxide | 419 mmol, 33.5 g | [OH-].[Na+]
solvent | hydrochloric acid | 21.4 g | Cl | ClH
solvent | water | 35 mL | O | H2O
solvent | hydrochloric acid | 20.7 g | Cl | ClH
solvent | water | 140 mL | O | H2O
product | 2-chloro-6-iodo-4-(trifluoromethyl)benzenamine | 31.83 g, 97% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)I)N | C7H4ClF3IN
